data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1671,1843,[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[N-:25][N+:26]#[N:27]>>[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[c:8]2[c:9]([n:25]([C:23]([NH:22][CH3:21])=[O:24])[n:26][n:27]2)[C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1,water,298.15,29.36745960867559,-44.91927853306356
3056,3421,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C-:8]([C:9]#[N:10])[O+:11]=[C:12]([CH3:13])[CH3:14]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:8]([C:6]([CH3:5])=[O:7])([C:9]#[N:10])[O:11][C:12]1([CH3:13])[CH3:14],water,298.15,15.0734175744159,-35.14128121602014
4680,5336,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22](=[O:23])[NH:24][CH3:25]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:22](=[O:23])[NH:24][CH3:25])[O:12][C:13]1([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,9.794307560426669,-36.70184052266402
287,311,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][CH-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:12]([C:10]([CH3:9])=[O:11])=[N:13][CH:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,13.90103753572377,-61.78577539541235
5255,5960,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N+:24]([CH3:25])[C-:26]([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:26]([C:27]#[N:28])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:24]([CH3:25])[C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][CH3:23],water,298.15,35.07917781317761,-0.651418468468848
968,1052,[CH3:13][C:14]#[N+:15][C-:16]([C:17](=[O:18])[NH:19][CH3:20])[C:21](=[O:22])[NH:23][CH3:24].[F:1][C:2]([F:3])([F:4])[C:5]#[C:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[C:14]([CH3:13])=[N:15][C:16]1([C:17](=[O:18])[NH:19][CH3:20])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,19.89462314465294,-51.47875462034913
3480,3964,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[N-:9][O+:10]=[C:11]([CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[N:9]([C:7]([O:6][CH3:5])=[O:8])[O:10][C:11]1([CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,19.645416357282613,-28.700423141103865
555,607,[CH3:1][C:2](=[O:3])[C:4]#[C:5][c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1.[O:12]=[c:13]1[n-:14][nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:16]2([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[NH:15][N:14]1[C:13](=[O:12])[O:23]2,water,298.15,39.96572510625216,12.43444013398855
2004,2226,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])=[N:18][C:19]2([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,13.430528642288827,-47.474654666279925
4932,5618,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[C:19](=[O:20])[O:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([CH3:18])([C:19](=[O:20])[O:21][CH3:22])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:23](=[O:24])[NH:25][CH3:26],water,298.15,27.607516831785563,-7.318319932909717
1889,2094,[CH3:17][NH:18][C:19](=[O:20])[C-:21]([N+:22]#[C:23][C:24]([CH3:25])=[O:26])[C:27]([CH3:28])=[O:29].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]([F:10])([F:11])[F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]([F:10])([F:11])[F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([C:27]([CH3:28])=[O:29])[N:22]=[C:23]2[C:24]([CH3:25])=[O:26],water,298.15,21.66758346277873,-43.930948789166976
800,867,[CH3:15][C:16](=[O:17])[C:18]#[N+:19][N-:20][C:21]([CH3:22])=[O:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[N:20]([C:21]([CH3:22])=[O:23])[N:19]=[C:18]3[C:16]([CH3:15])=[O:17],water,298.15,13.854908031105044,-62.90810426781776
